US07220862B2
(±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-1-(1H-indazol-5-ylmethyl)-2-oxo-ethyl]-amide
To a solution of the 3-(1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid (95 mg, 0.21 mmol) and N,N-diisopropylethylamine (0.14 mL, 0.82 mmol) in dimethylformamide (5 mL) was added a solution of 1,4-dioxa-8-azaspiro[4,5]decane (32 mg, 0.23 mmol) and PyBOP® (107 mg, 0.21 mmol) in methylene chloride (5 mL). The reaction mixture was stirred for 16 h at room temperature. All solvent was removed using high vacuum. The residue was subjected to flash column chromatography using methylene chloride/methanol/triethylamine (93:5:2) to give the title compound as a white solid (67 mg, 56% yield). 1H-NMR (CDCl3, 500 MHz) δ 10.52 (s, 1H), 7.97 (s, 1H), 7.54 (s, 1H), 7.37 (d, J=8.6 Hz, 1H), 7.20 (d, J=10.7 Hz, 1H), 7.16 (t, J=7.2 Hz, 1H), 7.04 (d, J=7.6 Hz, 1H), 7.01 (s, 1H), 6.94 (t, J=8.6 Hz, 1 H, 6.67 (d, J=7.6 Hz, 1H), 5.64 (d, J=7.9 Hz, 1H), 5.16 (dd, J=15.0, 6.7 Hz, 1H), 4.56–4.49 (m, 1H), 4.25 (s, 2H), 4.11 (br t, J=15.6 Hz, 2H), 3.92–3.84 (m, 4H), 3.73–3.69 (m, 1H), 3.60–3.56 (m, 1H), 3.48–3.43 (m, 1H), 3.22–3.17 (m, 1H), 3.11 (d, J=6.7 Hz, 2 H), 2.90–2.85 (m, 2H), 2.68–2.60 (m, 4H), 1.67–1.61 (m, 2H), 1.54–1.49 (m, 2H). Mass spec.: 588 (MH)+.

reactant | 3-(1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.21 mmol, 95 mg | N1N=CC2=CC(=CC=C12)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C24H26N6O4
reactant | N,N-diisopropylethylamine | 0.82 mmol, 0.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,4-dioxa-8-azaspiro[4,5]decane | 0.23 mmol, 32 mg | O1CCOC12CCNCC2 | C7H13NO2
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [2-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-1-(1H-indazol-5-ylmethyl)-2-oxo-ethyl]-amide | 67 mg, 56% yield | O1CCOC12CCN(CC2)C(C(CC=2C=C1C=NNC1=CC2)NC(=O)N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O | C31H37N7O5
